US03970602
Preparation of vinylamine/N-vinylcarbazole copolymer
3.6 grams of a random copolymer of N-vinylphthalimide/N-vinylcarbazole (9.2/90.8 mole percent) are dissolved in a solution containing 100 milliliters of tetrahydrofuran and 10 milliliters of ethanol. After the copolymer has been dissolved, 0.13 grams hydrazine hydrate (85%) were added and the solution thereafter heated to boiling under refluxing conditions overnight. At the end of this interval, the solution apparently remains unchanged, it retaining its characteristic yellow color. An additional 2.6 grams of hydrazine hydrate are then added and the solution refluxed for an additional two days. At the end of this time, the characteristic yellow color of the solution has disappeared and a white precipitate formed. The solution is now allowed to cool to room temperature and the precipitate removed by filtration. This precipitate is believed to be phthalhydrazide. The polymer is separated from the solution by precipitation with hexane in a Waring blender. The number average molecular weight of the polymeric product is about 78,000.

reactant | N-vinylphthalimide N-vinylcarbazole | C(=C)N1C(C=2C(C1=O)=CC=CC2)=O.C(=C)N1C2=CC=CC=C2C=2C=CC=CC12
reactant | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
reactant | hydrazine hydrate | 0.13 grams | O.NN
reactant | hydrazine hydrate | 2.6 grams | O.NN
solvent | ethanol | 10 milliliters | C(C)O | C2H6O
product | vinylamine N-vinylcarbazole | C(=C)N.C(=C)N1C2=CC=CC=C2C=2C=CC=CC12 | InChI=1S/C14H11N.C2H5N/c1-2-15-13-9-5-3-7-11(13)12-8-4-6-10-14(12)15;1-2-3/h2-10H,1H2;2H,1,3H2
